US08431695B2
Step 1: Preparation of (4-Benzyl-piperazin-1-yl)-cyclopropyl-methanone
To a mixture of 1-benzyl-piperazine (1.20 g, 6.81 mmol) in anhydrous DCE (23 mL) was added cyclopropane carboxylic acid chloride (854 mg, 8.17 mmol, 1.2 eq) followed by diisopropylethylamine (1.3 mL, 7.49 mmol, 1.1 eq), and the reaction mixture was stirred at 50° C. under N2 for 15 h. The mixture was cooled to rt and poured into EtOAc. The organic phase was washed with water and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by MPLC (Biotage®, gradient elution 75% EtOAc/hexane) to give the product (1.65 g, 99%) as a brown oil. 1H-NMR (300 MHz, DMSO-d6) 7.34 to 7.23 (m, 5H), 3.64 (broad s, 2H), 3.48 (s, 2H), 3.44 (broad s, 2H), 2.37 (broad s, 2H), 2.28 (broad s, 2H), 1.95 to 1.91 (m, 1H), 0.70 to 0.65 (m, 4H); ES-MS m/z 245.2 [M+H]+, RT (min) 1.12.

reactant | 1-benzyl-piperazine | 6.81 mmol, 1.20 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | cyclopropane carboxylic acid chloride | 8.17 mmol, 854 mg, 1.2 eq | C1(CC1)C(=O)Cl | C4H5ClO
reactant | diisopropylethylamine | 7.49 mmol, 1.3 mL, 1.1 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 23 mL | ClCCCl | C2H4Cl2
product | (4-Benzyl-piperazin-1-yl)-cyclopropyl-methanone | 1.65 g, 99% | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1CC1 | C15H20N2O
